US05112867
2-[Bis(4-methoxymethoxyphenyl)methyl]benzyl alcohol
In 500 ml of tetrahydrofuran was dissolved 74 g of methoxymethyl 2-[bis(4-methoxymethoxyphenyl)methyl]benzoate obtained by Reference Example 3. The solution was ice-cooled, 10 g of lithium aluminum hydride was added thereto, and the mixture was stirred for 10 minutes. The reaction mixture was stirred for additional 30 minutes at room temperature, and ice cooled, and then 10 ml of water, 10 ml of aqueous 15% sodium hydroxide and 30 ml of water were added thereto in order. The mixture was filtered by use of a filter aid and then concentrated under reduced pressure to afford 53.54 g of the desired compound as an oily matter.

reactant | methoxymethyl 2-[bis(4-methoxymethoxyphenyl)methyl]benzoate | 74 g | COCOC1=CC=C(C=C1)C(C1=C(C(=O)OCOC)C=CC=C1)C1=CC=C(C=C1)OCOC | C26H28O7
reactant | lithium aluminum hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 10 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-[Bis(4-methoxymethoxyphenyl)methyl]benzyl alcohol | 53.54 g | COCOC1=CC=C(C=C1)C(C1=C(CO)C=CC=C1)C1=CC=C(C=C1)OCOC | C24H26O5
